US09353096B2
In a 150 mL round-bottomed flask, 2-(3-methoxyphenyl)-1,1-dioxo-1λ6-thiomorpholine-4-carboxylic acid tert-butyl ester (435 mg, 1.27 mmol) was combined with dichloromethane (15 ml) to give a light yellow solution. To that was added 4 mL TFA. The resultant reaction mixture was stirred at room temperature for 1 h. Reaction was complete by LCMS. Reaction mixture was concentrated in vacuo. The residue was dissolved in dichloromethane, poured onto 10% NaHCO3 and extracted 3 times with dichloromethane. Combined organic layers were washed with water, dried over Na2SO4, filtered and filtrate concentrated in vacuo to afford 2-(3-methoxyphenyl)-thiomorpholine 1,1-dioxide (252 mg) which was used as is in the next step. (M+H)+=242 m/e.

reactant | 2-(3-methoxyphenyl)-1,1-dioxo-1λ6-thiomorpholine-4-carboxylic acid tert-butyl ester | 1.27 mmol, 435 mg | C(C)(C)(C)OC(=O)N1CC(S(CC1)(=O)=O)C1=CC(=CC=C1)OC | C16H23NO5S
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-(3-methoxyphenyl)-thiomorpholine 1,1-dioxide | 252 mg | COC=1C=C(C=CC1)C1CNCCS1(=O)=O | C11H15NO3S
